US09145441B2
Compound 111b (R)-2-Methyl-propane-2-sulfinic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide
A mixture of (1S,2R)-(−)-cis-1-amino-2-indanol (19 mg, 0.13 mmol), [Ru (p-cymen) Cl2]2 (39 mg, 0.064 mmol) and powdered 4 Å Molecular Sieves (0.7 g) was suspended in anhydrous 2-propanol (3 mL) and stirred under nitrogen. The suspension was heated at 90° C. for 30 minutes. The reaction mixture was cooled to 40° C. and a solution of (R)-2-methyl-propane-2-sulfinic acid [1-(7-bromo-quinolin-2-yl)-eth-(E)-ylidene]-amide (448 mg, 1.27 mmol) in 2-propanol (9 mL) was added followed by a solution of potassium tert-butoxide (36 mg, 0.32 mmol) in 2-propanol (3 mL). The reaction mixture was stirred for 2 hours at 40° C. and then allowed to cool. The mixture was poured directly onto a silica gel cartridge and eluted with ethyl acetate. After concentration the residue was further purified by silica gel chromatography using a gradient of iso-hexane/ethyl acetate 1:1 to 0:1 to give the title compound (287 mg, 64%) as a brown gum. 1H NMR (300 MHz, CDCl3) δ 1.33 (s, 9H), 1.60 (d, J=6.7 Hz, 3H), 4.80 (m, 1H), 5.42 (br d, J=4.2 Hz, 1H), 7.42 (d, J=8.5 Hz, 1H), 7.62 (dd, J=8.5, 1.2 Hz, 1H), 7.68 (d, J=8.7 Hz, 1H), 8.12 (d, J=8.7 Hz, 1H), 8.25 (s, 1H). LCMS (m/z) 354.9/356.8 [M+H], Tr 2.49 min

reactant | (1S,2R)-(−)-cis-1-amino-2-indanol | 0.13 mmol, 19 mg | C1[C@H]([C@H](C2=CC=CC=C21)N)O | C9H11NO
reactant | (R)-2-methyl-propane-2-sulfinic acid [1-(7-bromo-quinolin-2-yl)-eth-(E)-ylidene]-amide | 1.27 mmol, 448 mg | BrC1=CC=C2C=CC(=NC2=C1)\C(\C)=N\[S@](=O)C(C)(C)C | C15H17BrN2OS
reactant | potassium tert-butoxide | 0.32 mmol, 36 mg | CC(C)([O-])C.[K+]
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
solvent | 2-propanol | 9 mL | CC(C)O | C3H8O
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
catalyst | (E)-(2R,5S,11S,14S,17R,18R)-14-Isopropyl-2,11,17-trimethyl-18-(2,2,2-trifluoro-ethoxy)-3,9,12,15,28-pentaaza-tricyclo[21.3.1.1*5,9*]octacosa-1(26),21,23(27),24-tetraene-4,10,13,16-tetraone | 0.064 mmol, 39 mg | C(C)(C)[C@H]1C(N[C@H](C(N2CCC[C@@H](C(N[C@@H](C3=CC=CC(/C=C/CC[C@H]([C@H](C(N1)=O)C)OCC(F)(F)F)=C3)C)=O)N2)=O)C)=O | C31H44F3N5O5
product | (R)-2-Methyl-propane-2-sulfinic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 287 mg, 64% | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)N[S@](=O)C(C)(C)C | C15H19BrN2OS
